US08383644B2
(S)-3-{(R)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-((S)-1-phenyl-propylamino)-propionic acid methyl ester
(S)-3-{(R)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-(4-nitro-benzenesulfonylamino)-propionic acid methyl ester (1.7 g) was dissolved in 10 mL dry THF and 1320 mg triphenylphosphine and 691 μL (R)-(+)-1-phenyl-1-propanol were added. The mixture was stirred at 0° C. for 10 minutes, then 992 μL DIAD was added dropwise. The reaction was stirred at room temperature for 3 hours and was evaporated. The residue was purified by silica gel flash chromatography (hexanes to 8:2 hexanes/EtOAc). The resulting residue was dissolved in 20 mL dry DMF, then 526 μL mercaptoacetic acid and 2.5 mL DBU were added at room temperature. The reaction was stirred for 30 minutes and was partitioned between saturated aqueous NaHCO3 and diethyl ether. The aqueous layer was washed again with diethyl ether and the organic layers were combined. The organic layer was washed with aqueous NaHCO3, dried over Na2SO4 and evaporated. The residue was purified by silica gel flash chromatography (hexanes to 8:2 hexanes/EtOAc (first column)) and (hexanes to 1:1 DCM-hexanes to DCM to 9:1 DCM-EtOAc (second column)) to give 1.05 g of the product after drying. 1H NMR (400 MHz, CDCl3): 7.54 (d, 1H), 7.45 (d, 1H), 7.35 (m, 2H), 7.27-7.19 (m, 4H), 7.12 (m, 2H), 6.98 (m, 2H), 6.83 (d, 1H), 6.66 (d, 1H), 6.58 (m, 1H), 5.12-5.08 (m, 3H), 4.30 (m, 1H), 4.00 (m, 1H), 3.66 (s, 3H), 3.42 (m, 1H), 3.23 (m, 1H), 2.77 (m, 2H), 1.7-1.5 (m, 2H), 0.78 (t, 3H). LCMS: m/z 607.

reactant | (S)-3-{(R)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-(4-nitro-benzenesulfonylamino)-propionic acid methyl ester | 1.7 g | COC([C@H](CC1=CC2=C(O[C@@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C31H26Cl2N2O9S
reactant | triphenylphosphine | 1320 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (R)-(+)-1-phenyl-1-propanol | 691 μL | C1(=CC=CC=C1)[C@@H](CC)O | C9H12O
reactant | DIAD | 992 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-3-{(R)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-((S)-1-phenyl-propylamino)-propionic acid methyl ester | 1.05 g | COC([C@H](CC1=CC2=C(O[C@@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)N[C@@H](CC)C1=CC=CC=C1)=O | C34H33Cl2NO5
